US05349062
a) Preparation of 4,8-dibromo-1,5-diaminonaphthalene
15 g (0.024 mol) of 4,8-dibromo-1,5-ditoluene-p-sulfonamidonaphthalene (J. S. Whitehurst, J. Chem. Soc., 221-226 (1951)) are dissolved in 75 ml of concentrated H2SO4 and the solution is left to stand for 24 h, excluding light. The solution is then poured on to 450 g of ice, whereupon a violet solution forms from which the product precipitates as HSO4 salt after a few minutes. The precipitate is isolated by suction filtration and the filter cake is squeezed out to give a pale beige-violet crude product that is further processed immediately.

reactant | 4,8-dibromo-1,5-ditoluene-p-sulfonamidonaphthalene | 0.024 mol, 15 g | BrC1=CC=C(C2=C(C=CC(=C12)NS(=O)(=O)C1=CC=C(C=C1)C)Br)NS(=O)(=O)C1=CC=C(C=C1)C | C24H20Br2N2O4S2
solvent | H2SO4 | 75 ml | OS(=O)(=O)O | H2O4S
product | 4,8-dibromo-1,5-diaminonaphthalene | BrC1=CC=C(C2=C(C=CC(=C12)N)Br)N | C10H8Br2N2
